US04847306
(b) 1-Phenylmethylcyclobutanecarboxylic Acid (9b)
A mixture of ethyl 1-phenylmethylcyclobutanecarboxylate (4.16 g, 19.1 mmol), sodium hydroxide (1.2 g, 30 mmol) in ethanol (95%, 20 ml) and water (5 ml) was stirred at room temperature for 60 hours. The reaction mixture was poured into cold water and extracted with diethyl ether. The aqueous phase was separated, acidified with HCl (2N, 35 ml) and extracted with diethyl ether. The latter extract was washed with water, dried, filtered and evaporated to afford the desired product as a pale yellow oil: NMR (CDCl3) δ=1.7~2.6 (6H, m), 3.10 (2H, s), 7.22 (5H, s).

reactant | ethyl 1-phenylmethylcyclobutanecarboxylate | 19.1 mmol, 4.16 g | C1(=CC=CC=C1)CC1(CCC1)C(=O)OCC | C14H18O2
reactant | sodium hydroxide | 30 mmol, 1.2 g | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 1-Phenylmethylcyclobutanecarboxylic Acid | C1(=CC=CC=C1)CC1(CCC1)C(=O)O | C12H14O2
